2199-07-30 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - RIJ successfully placed
   - Milrinone bolus and gtt started around 11:30pm, with adjunctive
   neosynephrine for BP support.  This was stopped relatively soon as BP
   responded.
   - Good UOP
   -  Multiple episodes of Non Sustained V Tach, most less than 8 beats,
   some runs of Vtach longer.
   - Overnight, patient reports no new chest pain, shortness of breath,
   fevers, chills, or dizziness.
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-7-29**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-7-30**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 79 (74 - 87) bpm
   BP: 103/58(68) {79/47(59) - 111/79(111)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 94% on RA
   Heart rhythm: V Paced
   Height: 72 Inch
             Total In:
                                                                    231 mL
                                                                    446 mL
   PO:
                                                                    210 mL
                                                                    180 mL
   TF:
   IVF:
                                                                     21 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                  1,630 mL
   Urine:
                                                                  1,435 mL
                                                                  1,630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,204 mL
                                                                 -1,184 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94% on RA
   ABG: ///28/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, with JVP of 18cm.
   CARDIAC: Regular rate, normal S1, S2. No m/r/g. No thrills, lifts.
   Possible S3
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Scant crackles in B lower lobe, No
   wheezes or rhonchi.
   ABDOMEN: Impressive distention, obese, No tender. Unable to appreciate
   any HSM given level of distention. Bowel Sounds present.
   EXTREMITIES: 3+ lower extremity edema to level of knee.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   281 K/uL
   13.7 g/dL
   145 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   44 mg/dL
   97 mEq/L
   135 mEq/L
   41.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2199-7-29**]  03:48 PM
                             [**2199-7-30**]  04:00 AM
   WBC
   6.9
   6.3
   Hct
   44.8
   41.9
   Plt
   305
   281
   Cr
   1.5
   1.5
   TropT
   0.02
   Glucose
   103
   145
   Other labs: PT / PTT / INR:13.6/23.5/1.2, CK / CKMB /
   Troponin-T:36//0.02, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated nonischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight in excess of 415 lbs., s/p BiV/ICD with LBBB, OSA
   who was directly admitted to CCU for decompensated systolic CHF
   requiring IV milrinone and lasix for diuresis.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: EF 15% during last ECHO in
   [**3-25**] thought to be nonischemic cardiac myopathy, baseline weight 400
   currently with subacute increase in weight with large amount of
   ascites. Lasix and Milrinone started last night with excellent diuresis
   overnight. Neosynephrine only reguired during the milrinone bolus.
   - Continue Milrinone gtt (switched to 0.5mcg/kg/min from 0.375) this
   morning, watching for hypotension, have neosynephrine at bedside to
   start if MAP <60.  Will likely start again this morning in order to
   support BP.
   - IV lasix gtt starting at 20mg/hr for diuresis
   - continue spironolactone at 25 daily
   - will increase metoprolol from 100mg PO BID to TID to prevent
   arrhthmias
   - hold lisinopril at this time
   - foley placement
   - I/O goal negative 1.5-2L, if lower than goal, will increase Lasix gtt
   diuresis (can increase up to 50mg/hr)
   - F/u electrolytes today 2pm and I/O check in pm today
   .
   # RHYTHM: with biV/ICD. Frequent runs of non
 sustained VTach
   overnight. During last device clinic interrogation on [**7-23**], pt found w
   occasional episodes of sustained ventricular tachycardia successfully
   treated by the device by antitachycardia pacing. Has been unable to
   tolerate the amiodarone (GI symptoms) and has been off it for the past
   three months.
   - monitor on telemetry
   - increase metoprolol as above for arrythmias in setting of milrinone
   (will increase beta blocker to 100mg TID dosing)
   - consider amio bolus and gtt in case of sustained VT
   .
   # Acute vs Chronic Renal Failure: Creatinine stable at 1.5 this
   morning. Will continue to follow creatinine.
   - Hold lisinopril at this time
   .
   # CORONARIES: Troponin 0.2 overnight. No ECG changes or complaints.
   Most likely secondary to dilated cardiomyopathy in setting of decreased
   renal function. no known CAD, no cath in past
   - continue to trend cardiac enzymes, follow ECG
   - continue ASA
   .
   # Gout: No recent flairs.
   - continue colchicine prn
   .
   # OSA
   - not on bipap at home
   .
   FEN: No IVFs, Replace Electrolytes as needed, Cardiac Diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with tylenol prn
   -Bowel regimen with senna, colace
   .
   CODE: FULL code, ICU consent signed
   .
   COMM: [**Name (NI) 575**], sister [**Telephone/Fax (1) 8735**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: Low Sodium, Cardiac Diet, 1500 fluid restriction
   Glycemic Control:  None
   Lines:
   20 Gauge - [**2199-7-29**] 08:00 PM
   Multi Lumen Right IJ - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: SC Heparin TID
   Stress ulcer: Not High Risk
   Comments:
   Communication:  Comments: [**Name (NI) 575**], sister [**Telephone/Fax (1) 8735**]
   Code status: Full code, ICU consent signed
   Disposition: CCU for approx. One week for diuresis
   ------ Protected Section ------
   Responding well to regimen; creat stable and bp requiring a bit of
   phenylephrine for support during increased milrinone dosing (as
   expected); will add metolazone 5 mg po bid to accelerate diuresis; goal
   is 5 liters urine output per 24 hours
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-7-30**]
   11:15 ------

2199-08-01 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt continued with diuresis, with non sustained ventricular tachycarcia.
   Patient reguired 0.5 mcg/kg/min overnight with MAPS 60 -70.
   Pt only notes some left knee pain which developed over the last day.
   Hasn
t had this pain before in knee but describes it as anterior knee
   and increases with bending. Pt states shortness of breath at night has
   improved. Denies chest pain and dizziness. States he can occasionally
   feel episodes of VT.
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-7-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-1**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 78 (75 - 94) bpm
   BP: 97/56(66) {79/44(57) - 128/82(89)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 184.2 kg (admission): 189.9 kg
   Height: 72 Inch
    CVP: 20 (0 - 23)mmHg
   Total In:
                                                                  2,513 mL
                                                                    457 mL
   PO:
                                                                  1,250 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,263 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  8,705 mL
                                                                  2,600 mL
   Urine:
                                                                  8,705 mL
                                                                  2,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,192 mL
                                                                 -2,143 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, JVP difficult to assess given body habitus.
   CARDIAC: Regular rhytm with , normal S1, S2. No m/r/g. No thrills,
   lifts. Possible S3
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.  Will sit
   patient up on rounds and better assess lower lobes.
   ABDOMEN: Impressive distention, obese, No tender. Unable to appreciate
   any HSM given level of distention. Bowel Sounds present.
   EXTREMITIES: 3+ lower extremity edema to level of knee equal
   bilaterally,, somewhat improved from overnight. Left knee with mild
   tenderness on palpation of the patellar tendon. No warmth or effusion
   of left knee.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   300 K/uL
   14.7 g/dL
   108 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   43 mg/dL
   88 mEq/L
   129 mEq/L
   44.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2199-7-29**]  03:48 PM
                             [**2199-7-30**]  04:00 AM
                             [**2199-7-30**]  02:10 PM
                             [**2199-7-31**]  04:00 AM
                             [**2199-7-31**]  02:24 PM
                             [**2199-8-1**]  04:00 AM
   WBC
   6.9
   6.3
   6.9
   6.6
   Hct
   44.8
   41.9
   41.7
   44.9
   Plt
   [**Telephone/Fax (3) 8786**]00
   Cr
   1.5
   1.5
   1.6
   1.5
   1.6
   1.6
   TropT
   0.02
   Glucose
   103
   145
   108
   130
   100
   108
   Other labs: PT / PTT / INR:13.6/23.5/1.2, CK / CKMB /
   Troponin-T:36//0.02, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated nonischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight in excess of 415 lbs., s/p BiV/ICD with LBBB, OSA
   who was directly admitted to CCU for decompensated systolic CHF
   requiring IV milrinone and lasix for diuresis.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: EF 15% during last ECHO in
   [**3-25**] thought to be nonischemic cardiac myopathy, baseline weight 400
   currently with subacute increase in weight with large amount of
   ascites. Patient continues with diuresis at approx. 6 L daily, which is
   at goal.
   - Continue Milrinone 0.5mcg/kg/min infusion and  neosynephrine 0.5
   mcg/kg/min infusion; will tolerate MAP > 55
   - Continue IV lasix gtt at 20 mg/hre
   - Continue Metolazone 5mg PO BID
   - continue spironolactone at 25 daily
   - continue metoprolol at 100mg PO TID
   - hold lisinopril at this time
   - [**Hospital1 7**] Chem 7s.
   - Replete Potassium- 20 meq K daily, high normal goal: 5 or above
   .
   # RHYTHM: with biV/ICD. During last device clinic interrogation on [**7-23**],
   pt found w occasional episodes of sustained ventricular tachycardia
   successfully treated by the device either by shock or by
   antitachycardia pacing. Continues with freguent non sustained episodes
   of VT.
   - monitor on telemetry
   - Metoprolol 100mg PO TID
   - Amio bolus and gtt in case of sustained VT
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output. Crt
   on admission 1.5 up to 1.6 today.
   - Continue to
   - Hold lisinopril at this time
   .
   # CORONARIES: no known CAD, no cath in past
   - send cardiac enzymes, get ECG to r/o ischemia as etiology of
   decompensated heart failure
   - continue ASA
   .
   # Gout: No recent flairs.
   - continue colchicine prn
   .
   # OSA
   - not on bipap at home
   .
   FEN: No IVFs, Replace Electrolytes as needed, Cardiac Diet
   .
   ACCESS: PIV's , RIJ
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with tylenol prn
   -Bowel regimen with senna, colace
   .
   CODE: FULL code, ICU consent signed
   .
   COMM: [**Name (NI) 575**], sister [**Telephone/Fax (1) 8735**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: Low Sodium, Cardiac Diet, 1500 fluid restriction
   Glycemic Control:  None
   Lines:
   20 Gauge - [**2199-7-29**] 08:00 PM
   Multi Lumen Right IJ - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: SC Heparin TID
   Stress ulcer: Not High Risk
   Comments:
   Communication:  Comments: [**Name (NI) 575**], sister [**Telephone/Fax (1) 8735**]
   Code status: Full code, ICU consent signed
   Disposition: CCU for approx. One week for diuresis
   ------ Protected Section ------
   Progress continues; we will start replacing potassium to keep level in
   high normal range; consider biventricular pacer timing optimization;
   otherwise continue aggressive diuresis and inotropic stimulation
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-1**]
   15:47 ------

2199-08-02 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Still diuresing well -7 Liters
   - Added KCl 20mEq po daily
   - Lytes 1400: Sodium 130 (from 129), K 3.6, Crt 1.7 (from 1.6), Mag:
   2.1. Patient given 60 total K with dinner. Written for 20 K daily.
   Continuing to have numerous episodes of NSVT (longest run of 18 beats)
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-8-1**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies Chest Pain, SOB, Abdominal Pain
   Flowsheet Data as of  [**2199-8-2**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 95 (76 - 95) bpm
   BP: 87/76(79) {87/36(53) - 119/78(79)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 91%
   Heart rhythm: V Paced
   Wgt (current): 177 kg (admission): 189.9 kg
   Height: 72 Inch
             Total In:
                                                                  2,335 mL
                                                                    330 mL
   PO:
                                                                  1,270 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,065 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  8,240 mL
                                                                  3,680 mL
   Urine:
                                                                  8,240 mL
                                                                  3,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,905 mL
                                                                 -3,350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///33/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, JVP difficult to assess given body habitus.
   CARDIAC: Regular rhytm with , normal S1, S2. No m/r/g. No thrills,
   lifts. Possible S4
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.  Will sit
   patient up on rounds and better assess lower lobes.
   ABDOMEN: Impressive distention, obese, No tender. Unable to appreciate
   any HSM given level of distention. Bowel Sounds present.
   EXTREMITIES: 3+ lower extremity edema to level of knee equal
   bilaterally,, somewhat improved from overnight. Left knee with mild
   tenderness on palpation of the patellar tendon. No warmth or effusion
   of left knee.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   276 K/uL
   14.1 g/dL
   108 mg/dL
   1.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   45 mg/dL
   86 mEq/L
   130 mEq/L
   42.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2199-7-29**]  03:48 PM
                             [**2199-7-30**]  04:00 AM
                             [**2199-7-30**]  02:10 PM
                             [**2199-7-31**]  04:00 AM
                             [**2199-7-31**]  02:24 PM
                             [**2199-8-1**]  04:00 AM
                             [**2199-8-1**]  02:45 PM
                             [**2199-8-2**]  05:58 AM
   WBC
   6.9
   6.3
   6.9
   6.6
   6.9
   Hct
   44.8
   41.9
   41.7
   44.9
   42.0
   Plt
   [**Telephone/Fax (3) 8786**]00
   276
   Cr
   1.5
   1.5
   1.6
   1.5
   1.6
   1.6
   1.7
   TropT
   0.02
   Glucose
   103
   145
   108
   130
   100
   108
   108
   Other labs: PT / PTT / INR:13.6/23.5/1.2, CK / CKMB /
   Troponin-T:36//0.02, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   EKG [**7-31**]:
   Sinus rhythm with ventricular pacing and ventricular premature beats.
   Since
   the previous tracing of [**2199-7-30**] the QRS complex is wider suggesting
   more
   complete capture by the ventricular pacing. There may be fewer
   ventricular
   premature beats.
   Assessment and Plan
 43yo male patient of Dr. [**First Name (STitle) **] with severe dilated nonischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight in excess of 415 lbs., s/p BiV/ICD with LBBB, OSA
   who was directly admitted to CCU for decompensated systolic CHF
   requiring IV milrinone and lasix for diuresis.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: EF 15% during last ECHO in
   [**3-25**] thought to be nonischemic cardiac myopathy, baseline weight 400
   currently with subacute increase in weight with large amount of
   ascites. Patient continues with diuresis at approx. 6-7 L daily, goal
   will be to maximize diuresis.
   - Continue Milrinone 0.5mcg/kg/min infusion and neosynephrine 0.5
   mcg/kg/min infusion; will tolerate MAP > 55.  Will try to wean him off
   neosynephrine as BP tolerates.
   - Increase IV lasix gtt to 25 mg/hr
   - Continue Metolazone 5mg PO BID
   - continue spironolactone at 25 daily
   - continue metoprolol at 100mg PO TID
   - hold lisinopril at this time
   - [**Hospital1 7**] Chem 7s.
   - Replete Potassium- 40 meq K daily and more prn, high normal goal: 5.0
   or above.  Will give him the K+ after meals.
   .
   # RHYTHM: with biV/ICD. During last device clinic interrogation on [**7-23**],
   pt found w occasional episodes of sustained ventricular tachycardia
   successfully treated by the device either by shock or by
   antitachycardia pacing. Continues with freguent non sustained episodes
   of VT.
   - monitor on telemetry
   - Metoprolol 100mg PO TID
   - Amio bolus and gtt in case of sustained VT
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output. Crt
   on admission 1.5 up to 1.6 today.
   - Continue to hold lisinopril at this time
   - Monitor Creatinine
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: No recent flairs.
   - continue colchicine prn
   .
   # OSA
   - not on bipap at home
   .
   ICU Care
   Nutrition: Low Sodium, Cardiac Diet, 1500 fluid restriction
   Glycemic Control:  None
   Lines:
   20 Gauge - [**2199-7-29**] 08:00 PM
   Multi Lumen Right IJ - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: SC Heparin TID
   Stress ulcer: Not High Risk
   Comments:
   Communication:  Comments: [**Name (NI) 575**], sister [**Telephone/Fax (1) 8735**]
   Code status: Full code, ICU consent signed
   Disposition: CCU for approx. One week for diuresis
   ------ Protected Section ------
   Since he is tolerating the current level of diuresis, we will
   cautiously advance the regimen; aggressive potassium repletion is
   important
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-3**]
   08:25 ------

2199-08-03 08:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Still diuresing well (-6L since midnight at 5:30pm) but increased
   Lasix gtt to 30/hr
   - increased KCL to 40mEq daily
   - 2pm lytes Cr 1.7, K 4.2 (pt will get 40mEq this evening)
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 30 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-3**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.3
   HR: 91 (78 - 100) bpm
   BP: 114/52(67) {80/35(56) - 121/61,125(85)} mmHg
   RR: 22 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 172 kg (admission): 189.9 kg
   Height: 72 Inch
             Total In:
                                                                  2,174 mL
                                                                    552 mL
   PO:
                                                                  1,100 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,074 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  9,960 mL
                                                                  2,950 mL
   Urine:
                                                                  9,960 mL
                                                                  2,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -7,786 mL
                                                                 -2,398 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, JVP difficult to assess given body habitus.
   CARDIAC: Regular rhytm with , normal S1, S2. No m/r/g. No thrills,
   lifts. Possible S4
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.  Will sit
   patient up on rounds and better assess lower lobes.
   ABDOMEN: Impressive distention, obese, No tender. Unable to appreciate
   any HSM given level of distention. Bowel Sounds present.
   EXTREMITIES: 3+ lower extremity edema to level of knee equal
   bilaterally,, somewhat improved from overnight. Left knee with mild
   tenderness on palpation of the patellar tendon. No warmth or effusion
   of left knee.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   277 K/uL
   14.2 g/dL
   114 mg/dL
   1.6 mg/dL
   35 mEq/L
   3.8 mEq/L
   44 mg/dL
   81 mEq/L
   129 mEq/L
   43.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2199-7-29**]  03:48 PM
                             [**2199-7-30**]  04:00 AM
                             [**2199-7-30**]  02:10 PM
                             [**2199-7-31**]  04:00 AM
                             [**2199-7-31**]  02:24 PM
                             [**2199-8-1**]  04:00 AM
                             [**2199-8-1**]  02:45 PM
                             [**2199-8-2**]  05:58 AM
                             [**2199-8-2**]  02:55 PM
                             [**2199-8-3**]  04:52 AM
   WBC
   6.9
   6.3
   6.9
   6.6
   6.9
   8.4
   Hct
   44.8
   41.9
   41.7
   44.9
   42.0
   43.2
   Plt
   [**Telephone/Fax (3) 8786**]00
   276
   277
   Cr
   1.5
   1.5
   1.6
   1.5
   1.6
   1.6
   1.7
   1.6
   1.7
   1.6
   TropT
   0.02
   Glucose
   103
   145
   108
   130
   100
   108
   108
   114
   114
   Other labs: PT / PTT / INR:13.6/23.5/1.2, CK / CKMB /
   Troponin-T:36//0.02, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 43yo male patient of Dr. [**First Name (STitle) **] with severe dilated nonischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight in excess of 415 lbs., s/p BiV/ICD with LBBB, OSA
   who was directly admitted to CCU for decompensated systolic CHF
   requiring IV milrinone and lasix for diuresis.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: EF 15% during last ECHO in
   [**3-25**] thought to be nonischemic cardiac myopathy, baseline weight 400
   currently with subacute increase in weight with large amount of
   ascites. Patient continues with diuresis at approx. 6-7 L daily, goal
   will be to maximize diuresis.
   - Continue Milrinone 0.5mcg/kg/min infusion and neosynephrine 0.5
   mcg/kg/min infusion; will tolerate MAP > 55.  Will try to wean him off
   neosynephrine as BP tolerates.
   - Increase IV lasix gtt to 25 mg/hr
   - Continue Metolazone 5mg PO BID
   - continue spironolactone at 25 daily
   - continue metoprolol at 100mg PO TID
   - hold lisinopril at this time
   - [**Hospital1 7**] Chem 7s.
   - Replete Potassium- 40 meq K with each meal and more prn, high normal
   goal: 5.0 or above.
   .
   # RHYTHM: with biV/ICD. During last device clinic interrogation on [**7-23**],
   pt found w occasional episodes of sustained ventricular tachycardia
   successfully treated by the device either by shock or by
   antitachycardia pacing. Continues with freguent non sustained episodes
   of VT.
   - monitor on telemetry
   - Metoprolol 100mg PO TID
   - Amio bolus and gtt in case of sustained VT
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output. Crt
   on admission 1.5 up to 1.6 today.
   - Continue to hold lisinopril at this time
   - Monitor Creatinine
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: recent flair.
   - continue colchicine q 6 hours with tylenol
   .
   # OSA
   - not on bipap at home
   .
   ICU Care
   Nutrition: Low Sodium, Cardiac Diet, 1500 fluid restriction
   Glycemic Control:  None
   Lines:
   20 Gauge - [**2199-7-29**] 08:00 PM
   Multi Lumen Right IJ - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: SC Heparin TID
   Stress ulcer: Not High Risk
   Comments:
   Communication:  Comments: [**Name (NI) 575**], sister [**Telephone/Fax (1) 8735**]
   Code status: Full code, ICU consent signed
   Disposition: CCU for approx. One week for diuresis
   ------ Protected Section ------
   Making excellent progress with volume unloading regimen
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-3**]
   11:10 ------

2199-08-04 08:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Severe Cardiomyopathy, idiopathic, w/ severe overload
   and ascites.
   24 Hour Events:
   - At 1700 net negative -5200 cc; at 11pm -7629
   - Lytes at 1600: K 4.1 Cr 1.7 Ca [**00**].3; at 4am, K 4.2, Cr 1.7. Repleting
   K this a.m.
   - continue 40 meq IV with each meal for now and monitor lytes [**Hospital1 7**]
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 30 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-8-3**] 09:54 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-4**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 93 (78 - 93) bpm
   BP: 124/62(73) {85/41(55) - 124/80(89)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 163 kg (admission): 189.9 kg
   Height: 72 Inch
    CVP: 9 (6 - 9)mmHg
   Total In:
                                                                  2,321 mL
                                                                    541 mL
   PO:
                                                                    990 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,331 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  9,950 mL
                                                                  3,200 mL
   Urine:
                                                                  9,950 mL
                                                                  3,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -7,629 mL
                                                                 -2,659 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///35/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, JVP difficult to assess given body habitus.
   CARDIAC: Regular rhythm with, normal S1, S2. No m/r/g. Chest lift.
   Possible S4
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.  Will sit
   patient up on rounds and better assess lower lobes.
   ABDOMEN: Impressive distention, obese, No tender. Unable to appreciate
   any HSM given level of distention. Bowel Sounds present.
   EXTREMITIES: 3+ lower extremity edema to level of knee equal
   bilaterally,, somewhat improved from yesterday. Left knee with mild
   tenderness on palpation of the patellar tendon. No warmth or effusion
   of left knee.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   277 K/uL
   14.2 g/dL
   112 mg/dL
   1.7 mg/dL
   35 mEq/L
   4.2 mEq/L
   46 mg/dL
   80 mEq/L
   129 mEq/L
   43.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2199-7-30**]  02:10 PM
                             [**2199-7-31**]  04:00 AM
                             [**2199-7-31**]  02:24 PM
                             [**2199-8-1**]  04:00 AM
                             [**2199-8-1**]  02:45 PM
                             [**2199-8-2**]  05:58 AM
                             [**2199-8-2**]  02:55 PM
                             [**2199-8-3**]  04:52 AM
                             [**2199-8-3**]  04:06 PM
                             [**2199-8-4**]  03:49 AM
   WBC
   6.9
   6.6
   6.9
   8.4
   Hct
   41.7
   44.9
   42.0
   43.2
   Plt
   285
   300
   276
   277
   Cr
   1.6
   1.5
   1.6
   1.6
   1.7
   1.6
   1.7
   1.6
   1.7
   1.7
   Glucose
   108
   130
   100
   108
   108
   114
   114
   100
   112
   Other labs: PT / PTT / INR:13.6/23.5/1.2, CK / CKMB /
   Troponin-T:36//0.02, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated nonischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight in excess of 415 lbs., s/p BiV/ICD with LBBB, OSA
   who was directly admitted to CCU for decompensated systolic CHF
   requiring IV milrinone and lasix for diuresis.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: EF 15% during last ECHO in
   [**3-25**] thought to be nonischemic cardiac myopathy, baseline weight 400
   currently with subacute increase in weight with large amount of
   ascites. Patient continues with diuresis at approx. 6-7 L daily, goal
   will be to maximize diuresis.
   - Continue Milrinone 0.5mcg/kg/min infusion and neosynephrine 0.5
   mcg/kg/min infusion; will tolerate MAP > 55.  Will try to wean him off
   neosynephrine as BP tolerates.
   - Continue IV lasix gtt at 30 mg/hr
   - Continue Metolazone 5mg PO BID
   - continue spironolactone at 25 daily
   - continue metoprolol at 100mg PO TID
   - hold lisinopril at this time
   - [**Hospital1 7**] Chem 7s.
   - Replete Potassium- 40 meq K with each meal and more prn, high normal
   goal: 5.0 or above.  Increase one dose today to 60mg IV.
   .
   # RHYTHM: with biV/ICD. During last device clinic interrogation on [**7-23**],
   pt found w occasional episodes of sustained ventricular tachycardia
   successfully treated by the device either by shock or by
   antitachycardia pacing. Continues with freguent non- sustained episodes
   of VT.
   - monitor on telemetry
   - Metoprolol 100mg PO TID
   - Amio bolus and gtt in case of sustained VT
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output. Crt
   on admission 1.5 up to 1.7 today.
   - Continue to hold lisinopril at this time
   - Monitor Creatinine
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: recent flare.
   - continue colchicine q 6 hours with tylenol
   .
   # OSA
   - not on bipap at home
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: w/ patient and family
   Code status: Full code
   Disposition: CCU for now

2199-08-05 06:27:00 Physician Resident Progress Note
TITLE: CCU RESIDENT PROGRESS NOTE
   Chief Complaint: Severe Cardiomyopathy, idiopathic, w/ severe overload
   and ascites.
   24 Hour Events:
   - Aldactone increased to 50 mg Daily
   - Hyponatremia/Hypochloremia persists Na 129/Cl 77 today
   - negative 7.2L over the last 24 hours (total length of stay -43L)
   - Gout improved L foot.  Developed diarrhea secondary to the
   Colchicine.  Added on Imodium, now diarrhea improved on Imodium.
   - Continued episodes of non-sustained Vtach (one episode of 15 beats,
   one episode of 8 beats).
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 30 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-5**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 84 (80 - 93) bpm
   BP: 100/64(70) {90/39(50) - 124/79(85)} mmHg
   RR: 19 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 153.6 kg (admission): 189.9 kg
   Height: 72 Inch
    CVP: 7 mmHg ([**2199-8-5**] at 7am)
   Total In:
                                                                  2,316 mL
                                                                    454 mL
   PO:
                                                                    840 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,476 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  9,560 mL
                                                                  2,700 mL
   Urine:
                                                                  9,560 mL
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -7,244 mL
                                                                 -2,245 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///38/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, JVP difficult to assess given body habitus.
   CARDIAC: Regular rhythm with marked ectopy, normal S1, S2. No m/r/g.
   Chest lift.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.
   ABDOMEN: Impressive distention, obese, No tender. Unable to appreciate
   any HSM given level of distention. Bowel Sounds present.
   EXTREMITIES: 3+ lower extremity edema to level of knee equal
   bilaterally, improved from previous. Left knee with mild tenderness on
   palpation of the patellar tendon. No warmth or effusion of left knee.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   317 K/uL
   13.8 g/dL
   114 mg/dL
   1.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   49 mg/dL
   77 mEq/L
   129 mEq/L
   41.5 %
   6.9 K/uL
        [image002.jpg]
                             [**2199-7-31**]  02:24 PM
                             [**2199-8-1**]  04:00 AM
                             [**2199-8-1**]  02:45 PM
                             [**2199-8-2**]  05:58 AM
                             [**2199-8-2**]  02:55 PM
                             [**2199-8-3**]  04:52 AM
                             [**2199-8-3**]  04:06 PM
                             [**2199-8-4**]  03:49 AM
                             [**2199-8-4**]  03:16 PM
                             [**2199-8-5**]  04:42 AM
   WBC
   6.6
   6.9
   8.4
   6.9
   Hct
   44.9
   42.0
   43.2
   41.5
   Plt
   300
   276
   277
   317
   Cr
   1.6
   1.6
   1.7
   1.6
   1.7
   1.6
   1.7
   1.7
   1.7
   1.7
   Glucose
   100
   108
   108
   114
   114
   100
   112
   134
   114
   Other labs: Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated non-ischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight in excess of 415 lbs., s/p BiV/ICD with LBBB, OSA
   who was directly admitted to CCU for decompensated systolic CHF
   requiring IV milrinone and lasix for diuresis and now with 40 Liters
   diuresed.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: Length of stay 40 liters
   diuresed.  EF 15% during last ECHO in [**3-25**] thought to be nonischemic
   cardiomyopathy. Continues diuresis at approx. 6-7 L daily, goal will be
   to maximize diuresis.
   - continue Milrinone 0.5mcg/kg/min infusion and neosynephrine 0.5
   mcg/kg/min infusion; will tolerate MAP > 55.  Will try to wean him off
   neosynephrine as BP tolerates.
   - TTE today.
   - continue IV lasix gtt at 30 mg/hr
   - continue Metolazone 5mg PO BID
   - continue spironolactone 50 PO daily
   - continue metoprolol 100mg PO TID
   - hold lisinopril at this time
   - [**Hospital1 7**] Chem 7s
   - Replete Potassium 40 meq IV TID
   - Diamox 500mg Po Daily
   .
   # RHYTHM: with biV/ICD. Continues with freguent non- sustained episodes
   of VT.
   - monitor on telemetry
   - Metoprolol 100mg PO TID
   - Amio bolus and gtt in case of sustained VT
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output.
   Creatinine on admission 1.5 up to 1.7 today.
   - continue to hold lisinopril at this time
   - monitor Creatinine
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: Flare in left foot.
   - continue colchicine q 6 hours with tylenol
   # Diarrhea: Started on loperamide yesterday for diarrhea.
   .
   # OSA
   - not on bipap at home
   ICU Care
   Nutrition: Regular, low sodium (allergies to shellfish, bee stings),
   1500ml fluid restriction
   Glycemic Control:  Good control on [**Hospital1 7**] Chem7
   Lines: Multi Lumen (Right IJ) - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: Heparin SQ consider increasing dose based on weight.
   Stress ulcer: Not high risk.
   VAP:  Not on ventilator
   Comments:
   Communication:  Comments: W/ patient and family
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Will add acetazolamide; will check echocardiogram to assess for
   ventricular shrinkage and valvular regurgitation
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-5**]
   11:38 ------

2199-08-06 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: Pt notes no chest pain, shortness of breath. Only notes
   left gouty toe and left knee tendonitis. Pt very concerned by events
   and would like to discuss goals of treatment.
   -Two episodes of VT @220.  First, at 1330 ([**8-5**]) patient collapsed to
   floor, ICD fired. Milrinone reduced to .375 mcg/kg/min. Second, at 0400
   ([**8-6**]) patient felt palpitations/rapid heart beat and then passed out
   device fired. Milrinone turned off. After both events patient returned
   to vpaced rhythm. Electrolytes at the time stable from the morning.
   - Patient actually had low bp's after milrinone decreased, increased
   neosynephrine slightly
   - Talked to pharm re: SC heparin dose in obese patients.  Stated that
   they don't typically adjust dose based on body weight but they "have
   seen 7500units TID used before" and if we want to switch to that, we
   can.  Left it at 5000units TID.
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 30 mg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-8-6**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-6**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 82 (78 - 240) bpm
   BP: 93/54(60) {83/41(51) - 122/90(89)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 148.6 kg (admission): 189.9 kg Lost total of 41.3 kg
   (90.86 lbs)
   Height: 72 Inch
    CVP: 5 (5 - 7)mmHg
   Total In:
                                                                  2,639 mL
                                                                    249 mL
   PO:
                                                                  1,280 mL
   TF:
   IVF:
                                                                  1,359 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  8,545 mL
                                                                  1,340 mL
   Urine:
                                                                  8,545 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,906 mL
                                                                 -1,091 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple.
   CARDIAC: Regular rhythm with marked ectopy, normal S1, S2. No m/r/g.
   Chest lift.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.
   ABDOMEN: Impressive distention, obese, No tender. Unable to appreciate
   any HSM given level of distention. Bowel Sounds present.
   EXTREMITIES: 1+ lower extremity edema to level of knee equal
   bilaterally, improved from previous. Left knee with mild tenderness on
   palpation of the anterior patellar tendon. No warmth or effusion of
   left knee. Left big toe with tenderness on palpation, erythematous warm
   to touch.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   331 K/uL
   14.1 g/dL
   121 mg/dL
   1.9 mg/dL
   37 mEq/L
   3.7 mEq/L
   54 mg/dL
   78 mEq/L
   127 mEq/L
   42.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2199-8-2**]  05:58 AM
                             [**2199-8-2**]  02:55 PM
                             [**2199-8-3**]  04:52 AM
                             [**2199-8-3**]  04:06 PM
                             [**2199-8-4**]  03:49 AM
                             [**2199-8-4**]  03:16 PM
                             [**2199-8-5**]  04:42 AM
                             [**2199-8-5**]  01:48 PM
                             [**2199-8-5**]  10:11 PM
                             [**2199-8-6**]  04:03 AM
   WBC
   6.9
   8.4
   6.9
   8.0
   Hct
   42.0
   43.2
   41.5
   42.4
   Plt
   [**Telephone/Fax (3) 8915**]31
   Cr
   1.6
   1.7
   1.6
   1.7
   1.7
   1.7
   1.7
   1.8
   1.9
   1.9
   TropT
   0.04
   Glucose
   114
   114
   100
   112
   134
   114
   105
   116
   121
   Other labs: PT / PTT / INR:13.6/23.5/1.2, CK / CKMB /
   Troponin-T:47//0.04, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.7 mg/dL
   ECHO ([**8-5**]): The left atrium is markedly dilated. Left ventricular wall
   thicknesses are normal. The left ventricular cavity is severely dilated
   with severer global hypokinesis. No masses or thrombi are seen in the
   left ventricle. Tissue Doppler imaging suggests an increased left
   ventricular filling pressure (PCWP>18mmHg). The right ventricular
   cavity is moderately dilated with moderate global free wall
   hypokinesis. The aortic valve leaflets (3) appear structurally normal
   with good leaflet excursion and no aortic regurgitation. The mitral
   valve leaflets are mildly thickened. An eccentric, jet of moderate (2+)
   mitral regurgitation is seen. There is mild pulmonary artery systolic
   hypertension. There is no pericardial effusion. Compared with the prior
   study (images reviewed) of [**2199-3-19**], left ventricular cavity size is
   minimally smaller and systolic function is minimally improved. Right
   ventricular free wall hypokinesis appears more global, but of similar
   magnitude.
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated non-ischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight in excess of 415 lbs., s/p BiV/ICD with LBBB, OSA
   who was directly admitted to CCU for decompensated systolic CHF
   requiring IV milrinone and lasix for diuresis and now with 40 Liters
   diuresed.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: Length of stay 45 liters
   diuresed.  Continues diuresis at approx. 6-7 L daily, goal will be to
   maximize diuresis.
   - Consider restarting Milrinone with Amio?????
   - Milrinone off and Neosynephrine 0.6 mcg/kg/min infusion; will
   tolerate MAP > 55.  Will try to wean him off neosynephrine as BP
   tolerates.
   - continue IV lasix gtt at 30 mg/hr
   - continue Metolazone 5mg PO BID
   - continue spironolactone 50 PO daily
   - continue metoprolol 100mg PO TID
   - hold lisinopril at this time
   - [**Hospital1 7**] Chem 7s
   - Replete Potassium 40 meq IV TID/PRN
   - Acetazolamide 500mg Po Daily
   .
   # RHYTHM: with biV/ICD. Two episodes of fast VT (rate 220s) which
   resulted in ICD firing x2. V paced rhythm returned. Continues with
   freguent non- sustained episodes of VT.
   - Hold Milrinone at this time.
   - Check K TID, and give an extra 80 meq of K today on top of 40 TID;
   goal of 5.
   - monitor on telemetry
   - Metoprolol 100mg PO TID
   - Avoid amio at this time as patient has had clear trigger of Sustained
   VT; low K and on milrinone
   -Avoid digoxin as this may potentiate arrythmia
   #Hyponatremia/Hypochloremia: intravasculary low volume which triggers
   ADH; Developed slowly over the past week on lasix gtt. 127/78 today.
   - Continue to monitor
   - When lasix gtt stopped will follow to assure controlled return to
   normal.
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output.
   Creatinine on admission 1.5 up to 1.9 today.
   - continue to hold lisinopril at this time
   - monitor Creatinine
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: Flare in left big toe.
   - continue colchicine q 6 hours with tylenol
   # Diarrhea: Started on loperamide yesterday for diarrhea related to
   colchicine.
   .
   # OSA
   - not on bipap at home
   ICU Care
   Nutrition: Regular, low sodium (allergies to shellfish, bee stings),
   1500ml fluid restriction
   Glycemic Control:  Good control on [**Hospital1 7**] Chem7
   Lines: Multi Lumen (Right IJ) - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: Heparin SQ refused this AM dosage; start pneumoboots; avoid
   lovenox as renal function is low
   Stress ulcer: Not high risk.
   VAP:  Not on ventilator
   Comments:
   Communication:  Comments: W/ patient and family
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Episodes of VT due to potassium depletion and milrinone therapy.
   Potassium is being aggressively repleted and we have stopped the
   milrinone.  He is now 50 liters negative and appears to be approaching
   the limiot of volume removal.  Will reduce diuretic regimen once
   creatinine rises significantly above 2.0
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-6**]
   10:43 ------

2199-08-07 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Severe dilated Cardiomyopathy, acute on chronic
   systolic heart failure
   24 Hour Events:
   - Patient with Cr increase to 2.0 at 1400 today. Reduced Lasix gtt to
   20 from 30.
   - Q 8 K checks: at 1400: 4.3; at 2200: 4.4.
   -Had several K boluses yesterday, for a total of 200mEq in last 24hr
   -This morning, Cr =2.2.K = 4.8
   - Remained in NSR at 1640, no ICD firing or fast Vtach epoisodes
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-7**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 86 (71 - 92) bpm
   BP: 95/62(129) {85/51(60) - 106/75(129)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 143 kg (admission): 189.9 kg
   Height: 72 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  1,564 mL
                                                                    550 mL
   PO:
                                                                    600 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    964 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  5,810 mL
                                                                  1,600 mL
   Urine:
                                                                  5,810 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,246 mL
                                                                 -1,050 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///35/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple.
   CARDIAC: Regular rhythm with marked ectopy, normal S1, S2. No m/r/g.
   Marked Chest heave.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.
   ABDOMEN: Impressive distention but improving, obese, Non-tender. Unable
   to appreciate any HSM given level of distention. Bowel Sounds
   present.
   EXTREMITIES: 1+ lower extremity edema to level of knee equal
   bilaterally, improved from previous. Left knee with mild tenderness on
   palpation of the anterior patellar tendon. No warmth or effusion of
   left knee. Left big toe with tenderness on palpation, erythematous warm
   to touch.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   355 K/uL
   14.8 g/dL
   113 mg/dL
   2.2 mg/dL
   35 mEq/L
   4.8 mEq/L
   62 mg/dL
   79 mEq/L
   128 mEq/L
   45.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2199-8-3**]  04:06 PM
                             [**2199-8-4**]  03:49 AM
                             [**2199-8-4**]  03:16 PM
                             [**2199-8-5**]  04:42 AM
                             [**2199-8-5**]  01:48 PM
                             [**2199-8-5**]  10:11 PM
                             [**2199-8-6**]  04:03 AM
                             [**2199-8-6**]  02:56 PM
                             [**2199-8-6**]  10:23 PM
                             [**2199-8-7**]  05:02 AM
   WBC
   6.9
   8.0
   8.7
   Hct
   41.5
   42.4
   45.3
   Plt
   [**Telephone/Fax (3) 8948**]
   Cr
   1.7
   1.7
   1.7
   1.7
   1.8
   1.9
   1.9
   2.0
   2.1
   2.2
   TropT
   0.04
   Glucose
   100
   112
   134
   114
   105
   116
   121
   129
   120
   113
   Other labs: PT / PTT / INR:13.6/23.5/1.2, CK / CKMB /
   Troponin-T:47//0.04, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated non-ischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight on admission in excess of 415 lbs., s/p BiV/ICD
   with LBBB, OSA who was directly admitted to CCU for decompensated
   systolic CHF requiring IV milrinone and lasix for diuresis and now with
   40 Liters diuresed.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: Length of stay 53 liters
   diuresed.  Yesterday diuresis at approx. 4.5 Liters; decrease in
   diuresis likely due to decrease in Lasix gtt to 20/hr and Milrinone
   off.
   - Will try to wean him off neosynephrine as BP tolerates.
   - DC IV lasix gtt and transition to Turosemide 80mg [**Hospital1 7**]
   - Change  Metolazone to 5mg PO QAM
   - continue spironolactone 50 PO daily
   - continue metoprolol 100mg PO TID, transition to Toprol XL 200mg QAm
   tomorrow.
   - hold lisinopril at this time
   - Q8hr Chem 7s
   - Replete Potassium 40 meq IV TID + PRN
   - Acetazolamide 500mg Po Daily
   .
   # RHYTHM: with biV/ICD. No further episodes of fast VT in past 24hours,
   no ICD firing. V paced rhythm, but continues w/ frequent ectopy and
   occasional non- sustained episodes of VT.
   - Check K TID, and give an extra K today for goal K of 5.0.
   - monitor on telemetry
   - Continue Metoprolol 100mg PO TID, to Toprol XL 200mg in AM
   .
   #Hyponatremia/Hypochloremia: Intravasculary low volume which triggers
   ADH; Developed slowly over the past week on lasix gtt. 128/79 today,
   stable in past 24hr.
   - Continue to monitor
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output.
   Creatinine on admission 1.5, steadily increasing, up to 2.2 today.
   - continue to hold lisinopril at this time
   - monitor Creatinine
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: Flare in left big toe.  Improved today.
   - continue colchicine q 6 hours with tylenol, as needed.
   # Diarrhea: related to colchicine. Improved today.
    -Continue on loperamide as needed
   .
   # OSA
   - not on bipap at home
   ICU Care
   Nutrition: regular, heart-healthy diet
   Glycemic Control:  Monitoring glucose w/ Chem 7 checks
   Lines:
   Multi Lumen - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: Heparin SC 5000 IU TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient, sister
   [**Name (NI) 36**] status: Full code
   Disposition: Floor if pt can be weaned off Neosynephrine.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy.
   Total time spent on patient care: 45 minutes.
   Rising creat indicates that we are at or near the limit of aggressive
   volume unloading.  Therefore we will stop lasix gtt and start torsemide
   80 mg [**Hospital1 **]; reduce metolazone to 5 mg once daily, and attempt to wean
   off phenylephrine
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-7**]
   11:02 ------

2199-08-08 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Lasix gtt stopped, Switched to Torsemide 80mg [**Hospital1 7**], Metolazone 5mg qam
   - 1400 K (4.2)+ 40 KCL.
   - Switched to Toprol XL 200mg po daily first dose 7/23.
   - Difficulty weaning phenylephrine. Afternoon dose of Metoprolol held
   and Digoxin 0.5mg PO, then Digoxin 0.5mg three hours later. Weaned to
   off @ 2200.
   - Changed K to oral from IV.
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-8-7**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No chest pain, no dizziness, no sob
   Flowsheet Data as of  [**2199-8-8**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 71 (70 - 85) bpm
   BP: 100/60(69) {74/49(60) - 109/70(106)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 142.4 kg (admission): 189.9 kg
   Height: 72 Inch
             Total In:
                                                                  1,761 mL
                                                                    305 mL
   PO:
                                                                  1,170 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    591 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  4,857 mL
                                                                  1,210 mL
   Urine:
                                                                  4,857 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,096 mL
                                                                   -905 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple.
   CARDIAC: Regular rhythm with marked ectopy, normal S1, S2. No m/r/g.
   Marked Chest heave.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.
   ABDOMEN: Impressive distention but improving, obese, Non-tender. Unable
   to appreciate any HSM given level of distention. Bowel Sounds
   present.
   EXTREMITIES: 1+ lower extremity edema to level of knee equal
   bilaterally, improved from previous. Left knee with mild tenderness on
   palpation of the anterior patellar tendon. No warmth or effusion of
   left knee. Left big toe with tenderness on palpation, erythematous warm
   to touch.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   369 K/uL
   14.6 g/dL
   109 mg/dL
   2.3 mg/dL
   32 mEq/L
   5.0 mEq/L
   70 mg/dL
   81 mEq/L
   128 mEq/L
   45.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2199-8-5**]  04:42 AM
                             [**2199-8-5**]  01:48 PM
                             [**2199-8-5**]  10:11 PM
                             [**2199-8-6**]  04:03 AM
                             [**2199-8-6**]  02:56 PM
                             [**2199-8-6**]  10:23 PM
                             [**2199-8-7**]  05:02 AM
                             [**2199-8-7**]  01:47 PM
                             [**2199-8-7**]  09:03 PM
                             [**2199-8-8**]  04:14 AM
   WBC
   6.9
   8.0
   8.7
   7.0
   Hct
   41.5
   42.4
   45.3
   45.0
   Plt
   [**Telephone/Fax (3) 8980**]69
   Cr
   1.7
   1.8
   1.9
   1.9
   2.0
   2.1
   2.2
   2.1
   2.3
   2.3
   TropT
   0.04
   Glucose
   114
   105
   116
   121
   129
   120
   113
   123
   116
   109
   Other labs: PT / PTT / INR:14.1/23.8/1.2, CK / CKMB /
   Troponin-T:47//0.04, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated non-ischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight on admission in excess of 415 lbs., s/p BiV/ICD
   with LBBB, OSA who was directly admitted to CCU for decompensated
   systolic CHF requiring IV milrinone and lasix for diuresis and now with
   55 Liters diuresed.
   .
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: Length of stay 55 liters
   diuresed.  Now off milrinone, neosynephrine, and lasix drip.
   - Continue Turosemide 80mg [**Hospital1 7**]
   - Continue Metolazone to 5mg PO QAM
   - Continue Spironolactone 50 PO daily
   - Continue Toprol XL 200mg QAm today. If BP does not tolerate this
   increased dose, consider changing back to home dosage of Toprol XL of
   100 mg daily as the increase was due to the milrinone
s added ectopy.
   - Will continue to hold lisinopril [**2-18**] low BP and renal failure
   - Q8hr Chem 7s
   - Change Potassium 40 meq IV BID + PRN
   - Acetazolamide 250mg po Daily
   - Digoxin 0.125mg po daily and will check level this am
   # RHYTHM: with biV/ICD. No further episodes of fast VT in past 24hours
   (occasional 2-3 beats of NSVT), no ICD firing. V paced rhythm, but
   continues w/ frequent ectopy and occasional non- sustained episodes of
   VT.
   - Check K TID.
   - Monitor on telemetry
   - Continue Toprol XL 200mg
   .
   #Hyponatremia/Hypochloremia: Intravasculary low volume which triggers
   ADH; Developed slowly over the past week on lasix gtt. 128/81 today,
   stable in past 24hr.
   - Continue to monitor
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output.
   Creatinine on admission 1.5, steadily increasing, up to 2.2 today.
   - continue to hold lisinopril at this time
   - monitor creatinine
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: Flare in left big toe.  Improved today.
   - has been refusing colchicine [**2-18**] diarrhea, treated now with tylenol
   # Diarrhea: Improved
    -Continue on loperamide as needed
   .
   # OSA
   - not on bipap at home
   ICU Care
   Nutrition: regular, heart-healthy diet
   Glycemic Control:  Monitoring glucose w/ Chem 7 checks
   Lines:
   Multi Lumen - [**2199-7-29**] 10:25 PM
   Prophylaxis:
   DVT: Heparin SC 5000 IU TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient, sister
   [**Name (NI) 36**] status: Full code
   Disposition: Likely to [**Hospital Ward Name 289**] 3 Step-down today, Discharge pending PT
   consult
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: tolerating transition to all enteral
   therapy; we have removed 55 liters of water weight and hope to continue
   to diurese with oral meds; tx to floor today
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-8**]
   15:03 ------